US06096914
The resultant yellow solution of sodium methyl-n-propylphosphinate is mixed with a further 1050 ml of water. 288.6 g (0.43 mol) of aluminum sulfate octadecahydrate in 300 ml of water are added dropwise at 23° C. within a period of 2 hours, with stirring, and the product precipitates immediately. The resultant solution is filtered, and the residue is washed a number of times with water. Drying under reduced pressure at 150° C. gives 330.0 g of aluminum methyl-n-propylphosphinate (99% of theory) as a white powder (m.p. >380° C.).

reactant | sodium methyl-n-propylphosphinate | CP([O-])(=O)CCC.[Na+]
reactant | aluminum sulfate octadecahydrate | 0.43 mol, 288.6 g | O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Al+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Al+3]
solvent | water | 300 ml | O | H2O
solvent | water | 1050 ml | O | H2O
product | aluminum methyl-n-propylphosphinate | 330.0 g, 99% | CP([O-])(=O)CCC.[Al+3].CP([O-])(=O)CCC.CP([O-])(=O)CCC | InChI=1S/3C4H11O2P.Al/c3*1-3-4-7(2,5)6;/h3*3-4H2,1-2H3,(H,5,6);/q;;;+3/p-3
